US08980911B2
A well stirred mixture of a solution of benzyl 4-amino-1H-pyrrolo[3,2-c]pyridine-1-carboxylate (464 mg, 1.74 mmol) and triethylamine (0.49 mL, 3.47 mmol) in tetrahydrofuran was cooled to −10° C. and treated drop wise with methyl carbonochloridate (0.15 mL, 1.92 mmol). The reaction mixture was stirred at room temperature for 30 minutes followed by removal of volatiles under vacuum. The residue was dissolved in ethyl acetate and organic layer was washed with water, dried over anhydrous sodium sulfate and concentrated to yield benzyl 4-[(methoxycarbonyl)amino]-1H-pyrrolo[3,2-c]pyridine-1-carboxylate (278 mg, 49.13%).

reactant | benzyl 4-amino-1H-pyrrolo[3,2-c]pyridine-1-carboxylate | 1.74 mmol, 464 mg | NC1=NC=CC2=C1C=CN2C(=O)OCC2=CC=CC=C2 | C15H13N3O2
reactant | triethylamine | 3.47 mmol, 0.49 mL | C(C)N(CC)CC | C6H15N
reactant | methyl carbonochloridate | 1.92 mmol, 0.15 mL | C(OC)(=O)Cl | C2H3ClO2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | benzyl 4-[(methoxycarbonyl)amino]-1H-pyrrolo[3,2-c]pyridine-1-carboxylate | 278 mg, 49.13% | COC(=O)NC1=NC=CC2=C1C=CN2C(=O)OCC2=CC=CC=C2 | C17H15N3O4
